US07598255B2
2-tert-Butyl-4-(4-fluoro-phenyl)-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidine
2-tert-Butyl-4-(4-fluoro-phenyl)-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidine hydrochloride. To a tert-BuOH (17 mL) solution of 4-oxo-piperidine-1,3-dicarboxylic acid-1-tert-butyl ester-3-ethyl ester (2.18 g, 8.05 mmol), and 2,2-dimethyl-propionamidine hydrochloride (1.0 g, 7.3 mmol) was added Et3N (3.0 mL, 22.0 mmol). The reaction solution was heated at reflux for 48 h, cooled to rt, and concentrated. The resulting solid was dissolved in CH2Cl2 and washed with water. The aqueous layer was extracted with CH2Cl2. The combined organic layers were dried and concentrated to give a yellow solid that was triturated with Et2O to give 1.74 g (70%) of the title compound as a white solid. MS (ESI): exact mass calcd. for C16H25N3O3, 307.19; m/z found, 308.4 [M+H]+. 1H NMR (CDCl3): 4.35 (s, 2H), 3.68-3.67 (m, 2H), 2.74-2.65 (m, 2H), 1.49 (s, 9H), 1.37 (s, 9H). Step B. 2-tert-Butyl-4-trifluoromethanesulfonyloxy-7,8-dihydro-5H-pyrido[4,3-d]pyrimidine-6-carboxylic acid tert-butyl ester. To a 0° C. solution of the product from Step A (1.0 g, 3.25 mmol) in CH2Cl2 (16 mL) was added Et3N (0.53 mL, 3.80 mmol) and trifluoromethanesulfonic anhydride (0.64 mL, 3.8 mmol) dropwise over 10 min. After 2 h at 0° C., the mixture was diluted with CH2Cl2 and washed with water. The aqueous layer was extracted with CH2Cl2. The combined organic layers were dried and concentrated. The resulting residue was purified via SiO2 chromatography (10-30% EtOAc/hexanes) to give 1.28 g (91%) of the title compound. MS (ESI): exact mass calcd. for C17H24F3N3O3S, 439.14; m/z found, 440.3 [M+H]+. 1H NMR (CDCl3): 4.56 (s, 2H), 3.77 (t, J=5.7, 2H), 2.99-2.95 (m, 2H), 1.50 (s, 9H), 1.36 (s, 9H). Step C. 2-tert-Butyl-4-(4-fluoro-phenyl)-7,8-dihydro-5H-pyrido[4,3-d]pyrimidine-6-carboxylic acid tert-butyl ester. To the product from Step B (0.17 g, 0.39 mmol) was added 4-fluorophenylboronic acid (0.082 g, 0.586 mmol), K3PO4 (0.124 g, 0.584 mmol), Pd(Cl)2dppf.CH2Cl2 (0.018 g, 0.022 mmol) and dppf (0.008 g, 0.014 mmol). The mixture was evacuated with N2, dioxane (4 mL) was added and the mixture was heated at reflux for 2 h. After cooling to room temperature (rt), the mixture was diluted with Et2O, filtered through a small SiO2 plug, and the filtrate was concentrated. The resulting residue was purified via SiO2 chromatography (5-30% EtOAc/hexanes) to give 0.134 g (89%) of the title compound. MS (ESI): exact mass calcd. for C22H28FN3O2, 385.22; m/z found, 386.4 [M+H]+. 1H NMR (CDCl3): 7.60 (dd, J=5.4, 8.8, 2H), 7.17-7.14 (m, 2H), 4.59 (s, 2H), 3.76 (t, J=6.1, 2H), 3.09 (t, J=6.1, 2H), 1.44 (s, 9H), 1.41 (s, 9H). Step D. 2-tert-Butyl-4-(4-fluoro-phenyl)-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidine hydrochloride. To an EtOAc solution of the product from Step D (0.130 g, 0.337 mmol) was added 4 M HCl in dioxane. After stirring for 18 h the volatiles were removed and the solid partitioned between water and EtOAc. The aqueous layer was made basic with 1 N NaOH and extracted with EtOAc (2×). The combined organic layers were dried with MgSO4, filtered and concentrated. The resulting residue was purified via SiO2 chromatography (1-7% 2 M NH3 in MeOH/CH2Cl2) to give 0.079 g (82%) of the title compound. The corresponding HCl salt was obtained upon treatment of the free base in Et2O with 1 M HCl in Et2O. MS (ESI): exact mass calcd. for C17H20FN3, 285.16; m/z found, 286.4 [M+H]+. 1H NMR (DMSO-d6): 9.74 (s, 2H), 7.71 (dd, J=5.5, 8.6, 2H), 7.42 (d, J=8.8, 2H), 4.31 (m, 2H), 3.49-3.48 (m, 2H), 3.16 (t, J=6.2, 2H), 1.38 (s, 9H).

reactant | 2-tert-Butyl-4-(4-fluoro-phenyl)-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidine hydrochloride | Cl.C(C)(C)(C)C=1N=C(C2=C(N1)CCNC2)C2=CC=C(C=C2)F
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-tert-Butyl-4-(4-fluoro-phenyl)-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidine | 0.079 g, 82% | C(C)(C)(C)C=1N=C(C2=C(N1)CCNC2)C2=CC=C(C=C2)F | C17H20FN3
